US06878726B2
2-Fluoro-4-(5-Isopropoxy-3-Trifluoromethyl-Pyrazol-1-yl)-Benzenesulfonamide
2-Fluoro-4-(5-hydroxy-3-trifluoromethyl-pyrazol-1-yl)-benzenesulfonamide (163 mg) and potassium carbonate (276 mg) were mixed in dimethyl formamide, followed by the addition of isopropyl iodide. The reaction mixture was stirred at 50° C. for 1.5 hours. After cooling to room temperature, 0.5 N sodium hydroxide solution (10 ml) was added, and the product was extracted with ethyl acetate (50 ml) and benzene (25 ml). The organic layer was dried with sodium sulfate, and the solvent was evaporated in vacuo to give the crude product, which was purified by preparative silica gel plate using 5:2 of hexane:ethyl acetate to afford the title compound (32 mg). The title compound was characterized by tandem high pressure liquid chromatography/mass spectrometry and yielded a retention time of 7.523 minutes and had a parent ion at 368 AMU.

reactant | 2-Fluoro-4-(5-hydroxy-3-trifluoromethyl-pyrazol-1-yl)-benzenesulfonamide | 163 mg | FC1=C(C=CC(=C1)N1N=C(C=C1O)C(F)(F)F)S(=O)(=O)N | C10H7F4N3O3S
reactant | potassium carbonate | 276 mg | C([O-])([O-])=O.[K+].[K+]
reactant | isopropyl iodide | C(C)(C)I | C3H7I
reactant | sodium hydroxide | 0.5 N, 10 ml | [OH-].[Na+]
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
product | 2-Fluoro-4-(5-Isopropoxy-3-Trifluoromethyl-Pyrazol-1-yl)-Benzenesulfonamide | 32 mg | FC1=C(C=CC(=C1)N1N=C(C=C1OC(C)C)C(F)(F)F)S(=O)(=O)N | C13H13F4N3O3S
